* gf180-pll :: output-range :: closed-loop output-band coverage testbench (#12)
*
* DUT: `pll_top` -- the SAME whole-PLL DUT as sim/lock-time, sim/pll-top-smoke
* and sim/supply-sensitivity: design/pll_top.sch, netlisted by
* design/netlist.sh into design/netlist/pll_top.spice and prepended to this
* fragment by sim/lib/pll_top_dut.sh (#52).  This bench answers a different
* question than lock-time: not "how long does the loop take to lock", but
* "does the loop reach the ratified output-band EDGE frequencies at all, and
* with how much control-voltage headroom to the usable 0.9-2.7 V window" --
* complementing (not re-deriving) #8's open-loop vco-tuning-range
* characterization, which is what this bench's initial condition and target
* selection are taken from (see run.sh).
*
* MIGRATED FROM sim/lib/assemble_closed_loop.sh (#159), in lockstep with
* sim/lock-time and for the same reason: the loop's top-level wiring now
* comes from design/pll_top.sch instead of from this testbench's own instance
* list, so no two campaigns can disagree about the connectivity without the
* schematic diff showing it.  Every record already in
* sim/output-range/records/ was taken against the older assembly and names it
* in its own Netlist provenance field; those records are append-only evidence
* and are not restated or reinterpreted here.  See
* sim/lock-time/testbench/tb_lock_time.sp's header for the itemised list of
* what changed -- this deck took exactly the same changes.
*
* Same net names, stimulus and topology as tb_lock_time.sp; see that file's
* header for the full description.
*
* Expects from the generated header (sim/lib/simenv.sh): the same param set
* as tb_lock_time.sp (vsup, fref, b*_code, cpb*_code, sel*_code, p*_code,
* iunit, vctrl_ic, t_force, tstep, tstop, tmax, lockthresh). vctrl_ic here is
* NOT cold-start-vs-re-lock -- it is run.sh's best open-loop estimate of the
* locked Vctrl (from sim/vco-tuning-range's own measured f(Vctrl) table),
* used ONLY to keep the required simulated transient short enough to be
* tractable (see this record's Methodology field): the loop still closes and
* settles on its own, this just avoids re-proving cold-start slewing, which
* is lock-time's (#12) job, not this bench's.

*------------------------------------------------------------------ supplies
vvdd    vdd     0 dc 'vsup'
vvddvco vdd_vco 0 dc 'vsup'
vvdddiv vdd_div 0 dc 'vsup'
vgndvco gnd_vco 0 dc 0
vvss    vss     0 dc 0

*----------------------------------------------------------- reference clock
vref ref 0 pulse(0 'vsup' 20n 200p 200p '0.5/fref-200p' '1/fref')

*----------------------------------------------------- static configuration
* Encoded by sim/lib/pll_top_dut.sh (cloop_band_params / cloop_trim_params /
* cloop_divider_params), not by this deck -- see tb_lock_time.sp's header.
vb0   b0   0 dc 'vsup*b0_code'
vb1   b1   0 dc 'vsup*b1_code'
vb2   b2   0 dc 'vsup*b2_code'
vcpb0 cpb0 0 dc 'vsup*cpb0_code'
vcpb1 cpb1 0 dc 'vsup*cpb1_code'

* Lock-detector window trim (DR-014, #411): a 4-bit STATIC process trim,
* set once at test and held for the life of the part, so it is a DC source
* like the band and Icp codes beside it and never changes inside a run.
* The code this deck runs at comes from the campaign's own runner/manifest
* (sim/lib/pll_top_dut.sh's cloop_window_trim_params), not from here.
vldt0 ldt0 0 dc 'vsup*ldt0_code'
vldt1 ldt1 0 dc 'vsup*ldt1_code'
vldt2 ldt2 0 dc 'vsup*ldt2_code'
vldt3 ldt3 0 dc 'vsup*ldt3_code'

vp0   p0   0 dc 'vsup*p0_code'
vp1   p1   0 dc 'vsup*p1_code'
vp2   p2   0 dc 'vsup*p2_code'
vp3   p3   0 dc 'vsup*p3_code'
vp4   p4   0 dc 'vsup*p4_code'
vp5   p5   0 dc 'vsup*p5_code'
vs0   sel0 0 dc 'vsup*sel0_code'
vs1   sel1 0 dc 'vsup*sel1_code'
vs2   sel2 0 dc 'vsup*sel2_code'
vs3   sel3 0 dc 'vsup*sel3_code'
vs4   sel4 0 dc 'vsup*sel4_code'
vs5   sel5 0 dc 'vsup*sel5_code'

iibn vdd ibn dc 'iunit'
iicn vdd icn dc 'iunit'
iibp ibp 0 dc 'iunit'
iicp icp 0 dc 'iunit'

*--------------------------------------------------------------------- DUT
* Generated by sim/lib/pll_top_dut.sh's `cloop_instance`.
xdut ref b0 b1 b2 cpb0 cpb1 ldt0 ldt1 ldt2 ldt3 p0 p1 p2 p3 p4 p5 sel0 sel1 sel2 sel3 sel4 sel5
+ ibn icn ibp icp clk divout fb lock vctrl vdd vdd_vco gnd_vco vdd_div vss
+ pll_top

.ic v(xdut.xvco.y1)=0 v(xdut.xvco.y2)='vsup' v(xdut.xvco.y3)=0
+ v(xdut.xvco.y4)='vsup' v(xdut.xvco.y5)=0

* Released clamp seeding VCTRL near run.sh's open-loop estimate of the
* locked value (see header comment above and this record's Methodology) --
* same mechanism as tb_lock_time.sp.
vsetv vsetnode 0 dc 'vctrl_ic'
* Release transition sized as a multiple of the internal-timestep ceiling
* (#65) -- same fix as tb_lock_time.sp's identical mechanism, applied here
* preemptively for the same root cause: at the OLD 100 ps tr/tf (equal to
* the 100 ps ceiling), the switch's Ron(10)/Roff(1G) discontinuity spans
* exactly one ceiling-sized step, which sim/lock-time's cold-start row
* (vctrl_ic=0.9V, at a rail) showed ngspice cannot resolve -- "Timestep too
* small", 100% reproducible, independent of corner or host load. This bench
* was NOT observed to reproduce the crash at its one checked point
* (typical/27C/3.30V, `lo` edge, vctrl_ic ~1.68V mid-window rather than at a
* rail) before this fix landed, but shares the identical model/mechanism, so
* the fix is applied defensively rather than waiting for a corner where the
* discontinuity happens to be sharp enough to fail. See this campaign's
* sibling investigation record (sim/lock-time) for the full root-cause.
vsctrl sctrl 0 pulse('vsup' 0 't_force' '10*tmax' '10*tmax' '2*tstop' '4*tstop')
sforce vctrl vsetnode sctrl 0 SWFORCE
.model SWFORCE SW(Ron=10 Roff=1G Vt='vsup/2' Vh=0)

* rshunt / itl4 are REQUIRED on this DUT and are solver knobs only -- every
* convergence TOLERANCE is this campaign's own, unchanged from before #159,
* so the converged solution is the one this campaign has always reported.
* See tb_lock_time.sp's identical `.options` note for the bisection that
* established rshunt is not optional here (without it the migrated deck
* aborts inside the SWFORCE release ramp on the loop filter's nonlinear
* moscap branch) and for the floating-cascode-node reason sim/pfd-deadzone,
* sim/pll-top-smoke and sim/supply-sensitivity all carry the same 1 Tohm
* shunt.
.options rshunt=1e12 itl4=200 reltol=1e-3 abstol=1e-9 vntol=1e-4 chgtol=1e-13

* The transient is issued ONCE, from the `.control` block at the bottom,
* rather than from a top-level `.tran` card that ngspice batch mode would
* then re-run a second time -- see tb_lock_time.sp's identical note, and
* sim/pll-top-smoke/testbench/tb_pll_smoke.sp, which documented the
* mechanism this campaign's own records had reported as ngspice
* "re-entering its own analysis path" after printing complete measurements.
*
* The 4th transient argument (tmax) is LOAD-BEARING -- see tb_lock_time.sp's
* identical note and sim/lib/simenv.sh's SIMENV_CLOSED_LOOP_TMAX. This bench
* was the worse of the two violators before #65: with the ceiling defaulting
* to the print step {tstep} = 1/(50*f_out), the 10 MHz `lo` edge ran at a 2 ns
* internal ceiling, and 91% of its measured internal steps were LONGER than
* the PFD's entire 0.33-0.39 ns set pulse.
.csparam c_tstep={tstep}
.csparam c_tstop={tstop}
.csparam c_tmax={tmax}

*------------------------------------------------------------- measurements
* Same real lock_detector criterion as tb_lock_time.sp -- this bench also
* reports whether the loop actually LOCKED at the target frequency, not just
* that Vctrl landed somewhere plausible.
.measure tran t_lock_last_rise when v(lock)='lockthresh' rise=last
.measure tran lock_at_end find v(lock) at='tstop-1p'
* The control-voltage margin measurement this campaign exists for.
.measure tran vctrl_final find v(vctrl) at='tstop-1p'

* PFD DN-branch integration guard (#69) -- see tb_lock_time.sp's identical
* measure for the full rationale.  This campaign is where the guard was
* validated: at the pre-#75 ceiling the `lo` edge derived a 2.0 ns internal
* timestep from its 10 MHz output (~6x the PFD's 0.33-0.39 ns set pulse) and
* this measure read 6.6e-7 V against a 9.9e-4 V floor -- the DN branch was not
* asserting at all, while the campaign's own verdict table showed nothing
* unusual.  run.sh scores it three-valued (PASS / FAIL / SUSPECT / ERROR).
* DN is internal to pll_top since #159, hence the hierarchical reference.
.measure tran dn_lvl avg v(xdut.dn) from='0.9*tstop' to='tstop-1p'

* Full-transient waveform capture -- see tb_lock_time.sp's header comment
* above the identical `.control` block for the rationale (#49's Vctrl-anomaly
* prerequisite; no extra analysis cost, left on unconditionally).
.control
  set noaskquit
  * Only the vectors the `.meas` cards and the waveform artifact read -- see
  * tb_lock_time.sp's identical list for why an unrestricted save is not
  * viable on a ~390-node DUT at this timestep ceiling.
  save v(vctrl) v(lock) v(xdut.up) v(xdut.dn) v(xdut.vwin)
  tran $&c_tstep $&c_tstop 0 $&c_tmax
  wrdata waveform.csv v(vctrl) v(xdut.up) v(xdut.dn) v(lock) v(xdut.vwin)
.endc
